US07598248B2
(S)-6-(methylthio)-1-(1-phenylethyl)-1H-imidazo[4,5-b]pyrazin-2-ol.
A thick-walled microwave bottle equipped with a stirbar was charged with (S)-6-bromo-1-(1-phenylethyl)-1H-imidazo[4,5-b]pyrazin-2-ol (1.0 equiv), sodium thiomethoxide (4.5 equiv), and N-methylpyrrolidone (10 volume equivalents). The bottle was fitted with a septum and cap and heated to 180° C. in a microwave for 30 min. The reaction mixture was then diluted with 100 volume equivalents of EtOAc and washed with 4×100 volume equivalents of water and 1×100 volume equivalents of brine. The organic layer was dried over anhydrous sodium sulfate, filtered, and concentrated in vacuo. Reverse-phase preparative HPLC (20%-80% MeCN/H2O) provided the title compound (24%) as a white solid. LCMS m/z (APCI)=287.1 (M+H).

reactant | (S)-6-bromo-1-(1-phenylethyl)-1H-imidazo[4,5-b]pyrazin-2-ol | 1.0 equiv | BrC1=CN=C2C(=N1)N(C(=N2)O)[C@@H](C)C2=CC=CC=C2 | C13H11BrN4O
reactant | sodium thiomethoxide | 4.5 equiv | C[S-].[Na+]
reactant | N-methylpyrrolidone | CN1C(CCC1)=O | C5H9NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (S)-6-(methylthio)-1-(1-phenylethyl)-1H-imidazo[4,5-b]pyrazin-2-ol | 24% | CSC1=CN=C2C(=N1)N(C(=N2)O)[C@@H](C)C2=CC=CC=C2 | C14H14N4OS
